US06107342
To a solution of (1S,2R,5R,6S)-2-azido-3-oxo-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid 2-benzyl ester 6-ethyl ester (IX-1) (100 mg, 0.29 mmol) in EtOH (1.7 mL) and THF (0.5 mL) was added NaBH4 (22 mg, 0.58 mmol) at -50° C. and stirring was continued at -50° C. for 4 h. The reaction mixture was poured on ice, acidified with 1 N HCl and extracted with ether. After washing with sat. NaHCO3 -sol., brine and drying over MgSO4 the crude product was purified by silica gel column chromatography with hexane/EtOAc 5:1 to give (1 S,2R,3S,5R,6S)-2-azido-3-hydroxy-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid 2-benzyl ester 6-ethyl ester (X-1) (51 mg, 51%) as a colorless oil. 1H-NMR (250 MHz, CDCl3) □1.26 (3H, t, J=7.2 Hz), 2.03-2.18 (3H, m),2.31-2.48 (2H, m),2.53 (1H, t,J=4 Hz),4.13 (2H, q,J=7.2 Hz), 4.21 (1H,bs), 5.26 (2H, s), 7.36-7.40 (5H, m); MS [EI]300 [(M--OEt)+ ];

reactant | (1S,2R,5R,6S)-2-azido-3-oxo-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid 2-benzyl ester 6-ethyl ester | 0.29 mmol, 100 mg | C(C)OC(=O)[C@H]1[C@@H]2CC([C@]([C@H]12)(C(=O)OCC1=CC=CC=C1)N=[N+]=[N-])=O | C17H17N3O5
reactant | NaBH4 | 0.58 mmol, 22 mg | [BH4-].[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | EtOH | 1.7 mL | CCO | C2H6O
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | (1 S,2R,3S,5R,6S)-2-azido-3-hydroxy-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid 2-benzyl ester 6-ethyl ester | 51 mg, 51% | C(C)OC(=O)[C@H]1[C@@H]2C[C@@H]([C@]([C@H]12)(C(=O)OCC1=CC=CC=C1)N=[N+]=[N-])O | C17H19N3O5
